US04460508
Absolute ethanol (24,000 ml) and 3,240 g (60.0 moles) of sodium methoxide were charged into a 20 gallon reaction flask. The solution was stirred under nitrogen while a solution of 8228.4 g (60.0 moles) of o-nitrotoluene and 8768.4 g (60.0 moles) of diethyl oxalate was added all at once. The resulting solution was heated at reflux for 25 minutes, cooled to 60° with an ice-bath and 18,000 ml of water were cautiously added. Heat was then applied and the mixture was held at the reflux temperature for 1 hour. Most of the ethanol was then removed. The turbid solution was cooled at 50° and a solution of 4,140 g (59.6 moles) of hydroxylamine hydrochloride in 6,000 ml of water was added all at once. The temperature was maintained at 50°, the pH was adjusted to 7.0 with 6,000 ml of 10N sodium hydroxide solution and the reaction mixture stirred overnight at ambient temperature. The suspension was cooled to 10° and the pH was adjusted to 1.0 with 6,000 ml of 12N hydrochloric acid. The stirring was continued overnight at 10° to complete the liberation of the free acid. The solid was collected, washed with 6×4,000 ml of water, air dried overnight and suspended in 20,000 ml of toluene. The suspension was stirred for 1 hour under nitrogen atmosphere. The product was collected, washed with 4×2,000 ml of toluene followed by 4×2,000 ml of petroleum ether and dried (5 mm Hg/60° ) to give 2-nitrophenylpyruvic acid oxime, m.p. 158°-60° (dec).

reactant | sodium methoxide | 60.0 moles, 3,240 g | C[O-].[Na+]
reactant | o-nitrotoluene | 60.0 moles, 8228.4 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | diethyl oxalate | 60.0 moles, 8768.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydroxylamine hydrochloride | 59.6 moles, 4,140 g | Cl.NO
reactant | sodium hydroxide | 10N, 6,000 ml | [OH-].[Na+]
reactant | hydrochloric acid | 12N, 6,000 ml | Cl | ClH
solvent | water | 6,000 ml | O | H2O
solvent | water | 18,000 ml | O | H2O
solvent | ethanol | 24,000 ml | C(C)O | C2H6O
product | 2-nitrophenylpyruvic acid oxime | [N+](=O)([O-])C1=C(C=CC=C1)CC(C(=O)O)=NO | C9H8N2O5
